US03957757
A mixture of 1 gm of 2,9-dichloroacridine [obtained by the process of Bogucka, Roczniki, Chem. Vol. 40 (1966) p 677]230 mg of sodium cyanide and 20 cc of methanol was heated for 4 hours at 140°C in a sealed tube and after cooling, the mixture was filtered. The precipitate was washed with acetone and dried. The product was purified by sublimation in vacuo at 0.1 mm Hg to obtain 530 mg of 2-chloro-9-cyano-acridine melting at 208°C.

reactant | 2,9-dichloroacridine | 1 gm | ClC1=CC2=C(C3=CC=CC=C3N=C2C=C1)Cl | C13H7Cl2N
reactant | sodium cyanide | 230 mg | [C-]#N.[Na+]
solvent | methanol | 20 cc | CO | CH4O
product | 2-chloro-9-cyano-acridine | 530 mg | ClC1=CC2=C(C3=CC=CC=C3N=C2C=C1)C#N | C14H7ClN2
